US07875618B2
A mixture of 1,5-difluoro-3-methoxy-2-nitrobenzene (9 g, 47.6 mmol), 2-bromo-4-methylimidazole (7.7 g, 47.6 mmol) and potassium carbonate (14.5 g, 104.7 mmol) in 240 mL DMF was stirred at room temperature overnight. The majority of solvent was removed by rotavap and the residue was diluted with ethyl acetate and washed with water. The aqueous phase was extracted with ethyl acetate and the combined organic phase was washed with water, brined, dried over magnesium sulfate. Condensation and purification using 5-10% ethyl acetate in dichloromethane as eluent provided 4.8 g (31% yield) of 2-bromo-1-(5-fluoro-3-methoxy-2-nitrophenyl)-4-methyl-1H-imidazole as a yellow solid. 1H NMR (400 MHz, DMSO) δ ppm 7.60 (dd, 1H), 7.38 (dd, 1H), 7.21 (s, 1H), 3.98 (s, 3H), 2.09 (s, 3H). EIMS 330.0 [M+H]+.

reactant | 1,5-difluoro-3-methoxy-2-nitrobenzene | 47.6 mmol, 9 g | FC1=C(C(=CC(=C1)F)OC)[N+](=O)[O-] | C7H5F2NO3
reactant | 2-bromo-4-methylimidazole | 47.6 mmol, 7.7 g | BrC=1NC=C(N1)C | C4H5BrN2
reactant | potassium carbonate | 104.7 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 240 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-1-(5-fluoro-3-methoxy-2-nitrophenyl)-4-methyl-1H-imidazole | 4.8 g, 31% yield | BrC=1N(C=C(N1)C)C1=C(C(=CC(=C1)F)OC)[N+](=O)[O-] | C11H9BrFN3O3
